US05157041
274 mg of N2 -[3(S)-[[N-[4-(benzyloxycarbonyl)benzoyl]-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide in 100 ml of isopropanol were hydrogenated over 10% palladium-on-carbon at 20° C. and under atmospheric pressure for 16 hours. The catalyst was removed by filtration and the filtrate was evaporated to give 193 mg of N2 -[3(S)-[[N-(4-carboxybenzoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide as a white solid from methanol/ethyl acetate; MS: m/e 596 [M+H]+.

reactant | N2 [3(S)-[[N-[4-(benzyloxycarbonyl)benzoyl]-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 274 mg | N#N.C(C1=CC=CC=C1)OC(=O)C1=CC=C(C(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C[C@@]2(N(CCC2)C(C)(C)C)C(=O)N)O)CC2=CC=CC=C2)C=C1
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
catalyst | palladium-on-carbon | [Pd] | Pd
product | N2 [3(S)-[[N-(4-carboxybenzoyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-L-prolinamide | 193 mg | N#N.C(=O)(O)C1=CC=C(C(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C[C@@]2(N(CCC2)C(C)(C)C)C(=O)N)O)CC2=CC=CC=C2)C=C1 | InChI=1S/C31H41N5O7.N2/c1-30(2,3)36-15-7-14-31(36,29(33)43)18-24(37)22(16-19-8-5-4-6-9-19)34-27(40)23(17-25(32)38)35-26(39)20-10-12-21(13-11-20)28(41)42;1-2/h4-6,8-13,22-24,37H,7,14-18H2,1-3H3,(H2,32,38)(H2,33,43)(H,34,40)(H,35,39)(H,41,42);/t22-,23-,24+,31+;/m0./s1
